US08232312B2
9-(2-phenylsulphonyl-ethyl)-3-nitro-9H-carbazole
3.39 g 9-(2-phenylsulphonyl-ethyl)-9H-carbazole are dissolved in 120 ml acetonitrile, and combined with 6.4 g ammonium-cerium-nitrate and 5 g silica gel. Then the mixture is heated to 70° C. for 4 hours, filtered hot and the solid is washed with hot acetonitrile. The mother liquor is freed from the solvent in vacuo and the residue is chromatographed on silica gel (dichloromethane/methanol 100:0 to 98:2).

reactant | 9-(2-phenylsulphonyl-ethyl)-9H-carbazole | 3.39 g | C1(=CC=CC=C1)S(=O)(=O)CCN1C2=CC=CC=C2C=2C=CC=CC12 | C20H17NO2S
reactant | ammonium-cerium-nitrate | 6.4 g | [N+](=O)([O-])[O-].[Ce].[NH4+]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 9-(2-phenylsulphonyl-ethyl)-3-nitro-9H-carbazole | C1(=CC=CC=C1)S(=O)(=O)CCN1C2=CC=CC=C2C=2C=C(C=CC12)[N+](=O)[O-] | C20H16N2O4S
